US05292956
Stir a solution of 4.5 g (9.3 mmols) of N,N-bis[β-(3,5-di-t-butyl-4-hydroxyphenyl)ethyl]amine, 1.8 g (9.3 mmols) of 1-bromooctane, and 2.0 g (18.7 mmols) of sodium carbonate in 50 mL of acetonitrile for 17 hours at reflux temperature. Add another 0.3 g (1.6 mmols) of 1-bromooctane and stir at reflux for an additional 18 hours. After cooling, concentrate the reaction mixture, in vacuo, dissolve the resulting oil in 50 mL of toluene, and wash with water (2×50 mL). Dry the organic phase over magnesium sulfate and concentrate in vacuo. Flash column chromatography (120 g silica gel 60, 230-400 mesh, EM), using heptane followed by 1.5% isopropyl alcohol/heptane as the eluting solvents, gives 3.3 g (60.0%) of N,N-bis[β-(3,5-di-t-butyl-4-hydroxyphenyl)ethyl]octylamine as a slightly colored oil which GC area % analysis shows to be 99.0% pure.

reactant | N,N-bis[β-(3,5-di-t-butyl-4-hydroxyphenyl)ethyl]amine | 9.3 mmols, 4.5 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCNCCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C32H51NO2
reactant | 1-bromooctane | 9.3 mmols, 1.8 g | BrCCCCCCCC | C8H17Br
reactant | sodium carbonate | 18.7 mmols, 2.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-bromooctane | 1.6 mmols, 0.3 g | BrCCCCCCCC | C8H17Br
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | N,N-bis[β-(3,5-di-t-butyl-4-hydroxyphenyl)ethyl]octylamine | 3.3 g, 60.0% | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCN(CCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)CCCCCCCC | C40H67NO2
